US05648354
To a stirred solution of 200 mg (0.688 mmol) of 3-(hydroxymethyl)-6-[(tert-butyldimethylsilyloxy)methyl]-1,2-dithiin (U.S. Ser. No. 08/212,096) in 2 mL dry THF was added a solution of 3--N,N-dimethylaminophenol (190 mg, 1.376 mmol) in 2 mL THF, followed by addition of (220 mg, 0.839 mmol) triphenylphosphine. The resulting solution was cooled to 0° C., then 140 μL (155 mg, 0.890 mmol) of diethylazodicarboxylate was added, and the reaction mixture was kept at 0°-5° C. for 3 h until TLC analysis showed the reaction to be complete. For isolation of the products the reaction mixture was chromatographed directly on silica gel column, using ethyl acetate-hexane, 1:3 to yield 3-[tert-butyldimethylsilyloxy)methyl]-6-[[3-(N,N-dimethylamino)-phenyloxy]methyl]-1,2-dithiin (115 mg, 41.1%); 1H-NMR (CDCl3) δ7.3 (bs, 1 H), 7.1 (bs, 1 H), 6.60 (d, J=2.4, 1 H), 6.52 (bd, J=7.27 1 H), 6.42 (d, J=6.0, 1 H), 6.34 (d, J=6.0, 1 H), 4.60 (s, 2 H), 4.26 (s, 2 H), 2.65 (s, 6 H), 0.88 (s, 9 H), 0.07 (s, 6 H).

reactant | 3-(hydroxymethyl)-6-[(tert-butyldimethylsilyloxy)methyl]-1,2-dithiin | 0.688 mmol, 200 mg | OCC=1SSC(=CC1)CO[Si](C)(C)C(C)(C)C | C12H22O2S2Si
reactant | 3--N,N-dimethylaminophenol | 1.376 mmol, 190 mg | CN(C)C1=CC(=CC=C1)O | C8H11NO
reactant | triphenylphosphine | 0.839 mmol, 220 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.890 mmol, 140 μL, 155 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 6-[[3-(N,N-dimethylamino)-phenyloxy]methyl]-1,2-dithiin | 115 mg, 41.1% | CN(C)C=1C=C(C=CC1)OCC1=CC=CSS1 | C13H15NOS2
